US04883609
100 g of 2,6-difluoroaniline was dissolved in 180 ml of chloroform and 140 g of bromine was added dropwise. After one hour of reflux, the resulting solution was poured into a solution of 10% potassium hydroxide. The mixture was extracted with chloroform and the organic layer was washed with a solution of 10% potassium hydroxide in water. After the chloroform was removed by distillation, the residue was distilled under reduced pressure (bp 70° to 80° C. at 4 mmHg) and recrystallized with hexane to yield 127 g of 4-bromo-2,6-difluoroaniline.

reactant | 2,6-difluoroaniline | 100 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | bromine | 140 g | BrBr | Br2
reactant | potassium hydroxide | [OH-].[K+]
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,6-difluoroaniline | 127 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
